US08314087B2
2-(2-(2-Chloropyridin-4-ylamino)ethyl)-6-phenylpyridazin-3(2H)-one
A suspension of 2-(2-aminoethyl)-6-phenylpyridazin-3(2H)-one (425 mg, 1.97 mmol), 2-chloro-4-fluoropyridine (312 mg, 2.37 mmol), and K2CO3 (546 mg, 3.95 mmol) in DMF (5 mL) was stirred under nitrogen at 75° C. for 3 days. The reaction mixture was partitioned between CH2Cl2 (40 mL) and 5% NaHCO3 (20 mL), and the aqueous was extracted with 9:1 CHCl3/iPrOH (3×25 mL). The combined organics was dried over MgSO4 and concentrated to a solid from toluene. The solid was triturated with toluene (2×5 mL) and diethyl ether (10 mL) to give a white solid. MS (ESI pos. ion) m/z (MH+): 327. Calc'd exact mass for C17H15ClN4O: 326. 1H NMR (400 MHz, Chloroform-d) δ ppm 3.61-3.68 (m, 2 H) 4.52-4.59 (m, 2 H) 5.35 (br. s., 1 H) 6.37 (dd, J=5.77, 2.26 Hz, 1 H) 6.45 (d, J=2.01 Hz, 1 H) 7.05 (d, J=9.54 Hz, 1 H) 7.44-7.52 (m, 3 H) 7.66-7.78 (m, 3 H) 7.91 (d, J=6.02 Hz, 1 H).

reactant | 2-(2-aminoethyl)-6-phenylpyridazin-3(2H)-one | 1.97 mmol, 425 mg | NCCN1N=C(C=CC1=O)C1=CC=CC=C1 | C12H13N3O
reactant | 2-chloro-4-fluoropyridine | 2.37 mmol, 312 mg | ClC1=NC=CC(=C1)F | C5H3ClFN
reactant | K2CO3 | 3.95 mmol, 546 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(2-(2-Chloropyridin-4-ylamino)ethyl)-6-phenylpyridazin-3(2H)-one | ClC1=NC=CC(=C1)NCCN1N=C(C=CC1=O)C1=CC=CC=C1 | C17H15ClN4O
